US07625901B2
Step C. (6S)-6-(3,5-Difluorophenyl)-3,3,6-trimethylpiperidin-2-one
To a solution of methyl (5S)-5-[(tert-butylsulfinyl)amino]-5-(3,5-difluorophenyl)-2,2-dimethylhexanoate (1.14 g, 2.93 mmol) in MeOH (60 mL), cooled to 0° C., was added anhydrous HCl gas for 1 minute. The reaction was sealed and allowed to sit at 0° C. for fifteen minutes at which point the reaction was complete by LCMS analysis. Nitrogen was bubbled through the reaction for twenty minutes. The reaction was concentrated in vacuo. Additional MeOH (50 mL) was added and it was again concentrated in vacuo. This was repeated with another addition of MeOH and triethylamine (1.18 g, 11.7 mmol). To the resulting residue was added toluene (50 mL) and triethylamine (1.18 g, 11.7 mmol). A reflux condenser was attached and the mixture stirred at 110° C. After five days of stirring at relux, the reaction was judged to be complete by LCMS. The mixture was cooled to ambient temperature and concentrated in vacuo. The residue was diluted with diethyl ether (75 mL) and washed individually with 30 mL of each of the following aqueous solutions: 1M HCl (twice), water, saturated brine. The organic layer was then dried over sodium sulfate, filtered, and concentrated in vacuo to give a residue that was purified by silica gel chromatography, eluting with a gradient of MeOH:CH2Cl2-1:99 to 5.5:94.5, to give the title compound. MS: m/z=254 (M+1).

reactant | methyl (5S)-5-[(tert-butylsulfinyl)amino]-5-(3,5-difluorophenyl)-2,2-dimethylhexanoate | 2.93 mmol, 1.14 g | C(C)(C)(C)S(=O)N[C@](CCC(C(=O)OC)(C)C)(C)C1=CC(=CC(=C1)F)F | C19H29F2NO3S
reactant | HCl | Cl | ClH
reactant | triethylamine | 11.7 mmol, 1.18 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | triethylamine | 11.7 mmol, 1.18 g | C(C)N(CC)CC | C6H15N
solvent | MeOH | 60 mL | CO | CH4O
product | (6S)-6-(3,5-Difluorophenyl)-3,3,6-trimethylpiperidin-2-one | FC=1C=C(C=C(C1)F)[C@@]1(CCC(C(N1)=O)(C)C)C | C14H17F2NO
